US06969710B2
N-{5-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide (0.075 g, 0.16 mmol) and, methanesulfonyl chloride (0.017 mL, 0.22 mmole) to give 41.6 mg of a light purple solid; Anal. (C24H27ClN4O3S×1.3H2O) C, H, N, S.; M+ 425.4 Calcd 425.12.

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-1,4-diazepan-1-yl)-phenyl}benzenesulfonamide | 0.16 mmol, 0.075 g | NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C22H30N4O4S
reactant | methanesulfonyl chloride | 0.22 mmole, 0.017 mL | CS(=O)(=O)Cl | CH3ClO2S
product | N-{5-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}benzenesulfonamide | N1(CCNCCC1)C=1C=CC(=C(C1)NS(=O)(=O)C1=CC=CC=C1)NS(=O)(=O)C | C18H24N4O4S2
